US03933838
Ethyl [2-(phenylaminocarbonylamino)-4-p-chlorophenyl-thiazol-5-yl]-acetate.
2 Grams of phenylisocyanate in 50 c.c. ether are added to a suspension of 5 g. of ethyl (2-amino-4-p-chlorophenyl-thiazol-5-yl)-acetate in 200 c.c. of anhydrous ether. After 24 hours the precipitated solid is filtered off, m.p. 192°-93°C.

reactant | phenylisocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | ethyl (2-amino-4-p-chlorophenyl-thiazol-5-yl)-acetate | NC=1SC(=C(N1)C1=CC=C(C=C1)Cl)CC(=O)OCC | C13H13ClN2O2S
solvent | ether | CCOCC | C4H10O
product | Ethyl [2-(phenylaminocarbonylamino)-4-p-chlorophenyl-thiazol-5-yl]-acetate | C1(=CC=CC=C1)NC(=O)NC=1SC(=C(N1)C1=CC=C(C=C1)Cl)CC(=O)OCC | C20H18ClN3O3S
